US07423012B2
1 M LiOH (2 mL) was added dropwise to a solution of 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoylmethyl]-3-(6-bis(tert-butoxycarbonyl)amino-5-methyl-pyridin-3-yl)-propionic acid ethyl ester (100 mg, 0.145 mmol) in acetonitrile (2 mL). The mixture was stirred overnight and concentrated under reduced pressure. The mixture was purified by column chromatography (isopropanol/concentrated aqueous NH3/water, 4:2:1) to give impure product. The impure product was stirred with MeOH, filtered and concentrated under reduced pressure. The crude product was stirred with EtOH, filtered and concentrated under reduced pressure. The crude product was stirred with ethylacetate/ethanol, filtered and concentrated under reduced pressure to give 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoylmethyl]-3-(6-tert-butoxycarbonylamino-5-methyl-pyridin-3-yl)-propionic acid (52 mg, 63.8%).

reactant | LiOH | 1 M, 2 mL | [Li+].[OH-]
reactant | 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoylmethyl]-3-(6-bis(tert-butoxycarbonyl)amino-5-methyl-pyridin-3-yl)-propionic acid ethyl ester | 0.145 mmol, 100 mg | C(C)OC(C(CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C([PH2]=O)(O)C(C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C34H50N3O10P
reactant | MeOH | CO | CH4O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-hydroxy-phosphinoylmethyl]-3-(6-tert-butoxycarbonylamino-5-methyl-pyridin-3-yl)-propionic acid | 52 mg, 63.8% | C(C1=CC=CC=C1)OC(=O)NC(C(C)C)C(C(C(=O)O)CC=1C=NC(=C(C1)C)NC(=O)OC(C)(C)C)([PH2]=O)O | C27H38N3O8P
